US06251904B1
A solution of diethyloxalate (27.2 ml, 0.2 mol) in 2-pentanone (21.2 ml, 0.2 mol) was added dropwise to a solution of sodium (4.83 g, 0.21 mol) in ethanol (200 ml), and the reaction stirred at 60° C. for 5 hours, then cooled in an ice-bath. The solution was neutralised using acetic acid (11.5 ml, 0.2 mol) and N-methyl hydrazine (10.6 ml, 0.2 mol) then added dropwise. The mixture was stirred for a further 4 hours at room temperature and concentrated under reduced pressure. The residue was partitioned between dichloromethane (300 ml) and water (200 ml), and the phases separated. The aqueous layer was extracted with dichloromethane (3×100 ml), the combined organic solutions were dried (MgSO4) and evaporated under reduced pressure. The crude is product was purified by column chromatography on silica gel, using ethyl acetate: hexane (25:75) as eluant to give ethyl 1-methyl-3-n-propyl-pyrazole-5-carboxylate (6.1 g) and the title compound (22.1 g, 56%). δ (CDCl3): 1.00 (3H, t), 1.40 (3H, t), 1.70 (2H, m), 2.60 (2H, t), 3.87 (3H, s), 4.40 (2H, q), 6.60 (1H, s).

reactant | diethyloxalate | 0.2 mol, 27.2 ml | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | 2-pentanone | 0.2 mol, 21.2 ml | CC(CCC)=O | C5H10O
reactant | sodium | 0.21 mol, 4.83 g | [Na] | Na
reactant | acetic acid | 0.2 mol, 11.5 ml | C(C)(=O)O | C2H4O2
reactant | N-methyl hydrazine | 0.2 mol, 10.6 ml | CNN | CH6N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 1-methyl-3-n-propyl-pyrazole-5-carboxylate | 6.1 g | CN1N=C(C=C1C(=O)OCC)CCC | C10H16N2O2
